US05455253
2-(t-Butyl)-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
t-Butyl-3-nitrostyrylketone (1.81 g), 1.3-cyclohexanedione (0.82 g), and ammonium acetate (1.25 g) were combined in ethanol (50 mL) and heated at reflux for 7.5 hours. Following removal of solvent and chromatography (hexane/ethyl acetate; 1:1 and methylene chloride/acetonitrile 9:1) the title compound (0.54 g) was obtained as a yellow solid; mp 180°-181.5°C.; NMR: 1.12 (s,9, CH3), 1.68-1.95 (m,2, CH2), 2.06-2.27 (m,2, CH2), 2.42-2.67 (m,2, CH2), 4.61 (d,1, J=5.2, CH), 4.72 (dd,1, J=5.2, 1.8; CH), 7.53 (m,1, Ar), 7.64 (m,1, Ar), 7.97 (m,2, Ar), 8.10 (s,1, NH); MS: m/z=326(M). Analysis for C19H22N2O3 : Calculated C, 69.92; H, 6.79; N, 8.58; Found: C, 69.96 ; H, 6.80; N, 8.60.

reactant | t-Butyl-3-nitrostyrylketone | 1.81 g | C(C)(C)(C)C(=CC1=CC(=CC=C1)[N+](=O)[O-])C(=O)C(=CC1=CC(=CC=C1)[N+](=O)[O-])C(C)(C)C | C25H28N2O5
reactant | 1.3-cyclohexanedione | 0.82 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 1.25 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(t-Butyl)-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | C(C)(C)(C)C=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H22N2O3
